US06569851B1
A. Preparation of 3,5-Difluorophenyl-α-hydroxy-α-methylacetic Acid
The compound was prepared according to the general procedure of Stiller et al., J. Med. Chem., 15:1029 (1972). A solution of alpha-keto-3,5-difluorophenylacetic acid (prepared according to Middleton et al., J. Org Chem., 45:2883 (1980)) in diethyl ether was cooled to 0° C. Methylmagnesium chloride (4.7 eq., 3.0 M solution in THF) was added dropwise via syringe pump at a rate of 10 ml/min so that the internal temperature did not exceed 5.5° C. The cooling bath was removed and stirring continued at ambient for 1.5 hours. After approximately 30 minutes, the clumps of solid dissolved. The mixture was poured onto ice and acidified with 1N HCl. The aqueous layer was extracted thrice with ethyl acetate. The combined organics were washed with 5% NaHSO3, water and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated to a yellowish solid. The solid was recrystallized from dichloromethane, giving a white crystalline solid having a melting point of 102.5-103.2 C. C9H8F2O3 (MW 202.17); mass spectroscopy found (M−H) 201.2. Anal calcd for C9H8F2O3: C, 53.47, H, 3.99. Found: C, 53.76; H, 3.82.

reactant | alpha-keto-3,5-difluorophenylacetic acid | O=C(C(=O)O)C1=CC(=CC(=C1)F)F | C8H4F2O3
reactant | Methylmagnesium chloride | 3.0 M, 4.7 eq. | C[Mg]Cl
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,5-Difluorophenyl-α-hydroxy-α-methylacetic Acid | FC=1C=C(C=C(C1)F)C(C(=O)O)(C)O | C9H8F2O3
